US05741926
2-((2-Bromoacetyl)amino)-6-fluorobenzoic Acid
To a solution of 2-amino-6-fluorobenzoic acid (8.0 g, 0.052 mol) in anhydrous DMF (30 mL) and anhydrous dioxane (30 mL) at 0° C. in a 250 mL 3-necked flask fitted with a constant additional funnel was added, dropwise, bromoacetyl bromide (10.4 g, 100 mol%) while keeping the internal temperature between 0° C. and 2° C. After the addition was completed (~30 min), the reaction mixture was stirred at rt overnight. Water (100 mL) was added, and the light crystalline compound which precipitated was filtered, washed sequentially with 5% HBr and water, and then dried in a vacuum oven at 40°-45° C., affording 9.5 g (67%) of the title compound: mp 168.9°-170.3° C.; 1H NMR (DMSO-d6) δ13.80 (bs, 1H, OH), 10.60 (s, 1H, NH), 7.69 (d, 1H, J=8.4), 7.54 (dt, 1H, J=8.4, J=10.4), 7.13-7.08 (m, 1H), 4.16 (s, 2H); 13C NMR (DMSO-d6) δ165.22 (d, J=32.4, C=O), 160.18 (d, J=251), 137.83, 132.69 (d, J=10.0), 118.58, 118.20, 112.18 (d, J=22.9), 30.04; MS (EI, m/z) 275 (M+). HRMS (EI) calcd for C9H7NO3FBr 274.9593, found 274.9595. Anal. Calcd for C9H7NO3FBr: C, 39.16; H, 2.56; N, 5.08. Found: C, 38.96; H, 2.48; N, 5.07.

reactant | 2-amino-6-fluorobenzoic acid | 0.052 mol, 8.0 g | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | bromoacetyl bromide | 10.4 g | BrCC(=O)Br | C2H2Br2O
reactant | Water | 100 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 2-((2-Bromoacetyl)amino)-6-fluorobenzoic Acid | 9.5 g, 67% | BrCC(=O)NC1=C(C(=O)O)C(=CC=C1)F | C9H7BrFNO3
